US07589105B2
6-Butoxy-N,N′-diethyl-N,N′-bis(3-hydroxyphenyl)-1,3,5-triazine-2,4-diamine (Exemplified Compound No. 4-85)
This compound was obtained (yield 47%) based on the method described in Production Example 1B using 6-butoxy-2,4-dichloro-1,3,5-triazine instead of the 2,4-dichloro-6-ethyl-1,3,5-triazine, and using 3-ethylaminophenol instead of the 3-aminophenol.

reactant | 6-butoxy-2,4-dichloro-1,3,5-triazine | C(CCC)OC1=NC(=NC(=N1)Cl)Cl | C7H9Cl2N3O
reactant | 3-ethylaminophenol | C(C)NC=1C=C(C=CC1)O | C8H11NO
product | 6-Butoxy-N,N′-diethyl-N,N′-bis(3-hydroxyphenyl)-1,3,5-triazine-2,4-diamine | yield 47% | C(CCC)OC1=NC(=NC(=N1)N(C1=CC(=CC=C1)O)CC)N(C1=CC(=CC=C1)O)CC | C23H29N5O3
